US04064347
2,7-Bis(4-Piperidinobutyryl)Fluoren-9-One Dihydrochloride
2,7-Bis(4-piperidinobutyryl)fluoren-9-one, prepared in Example 33, was dissolved in chloroform and the resulting solution acidified with ethereal HCl to give the desired product which was recrystallized once from water-isopropyl alcohol. M.P. 322°-323° C, λMaxH2O 284, E1cm1% 1,220.

reactant | 2,7-Bis(4-piperidinobutyryl)fluoren-9-one | N1(CCCCC1)CCCC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(CCCN1CCCCC1)=O)=O | C31H38N2O3
reactant | HCl | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,7-Bis(4-Piperidinobutyryl)Fluoren-9-One Dihydrochloride | Cl.Cl.N1(CCCCC1)CCCC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(CCCN1CCCCC1)=O)=O | InChI=1S/C31H38N2O3.2ClH/c34-29(9-7-19-32-15-3-1-4-16-32)23-11-13-25-26-14-12-24(22-28(26)31(36)27(25)21-23)30(35)10-8-20-33-17-5-2-6-18-33;;/h11-14,21-22H,1-10,15-20H2;2*1H
